US04973597
6-Chloro-N-(2,6-dimethylphenyl)-3-pyridinecarboxamide
A slurry of 25 g of 6-chloronicotinic acid in approximately 300 ml of acetone was treated with 22.6 ml of triethylamine. The reaction mixture was cooled to approximately -10° C. by means of an external ice/methanol bath. A solution of 15.5 ml of ethyl chloroformate in acetone was added to the mixture at a rate to maintain the temperature below 0° C. After stirring with the cold bath for 2 hours, a solution of 38.5 g of 2,6-dimethylaniline in approximately 150 ml of acetone was added while maintaining the temperature below 0° C. After the addition was complete, the mixture was allowed to warm to room temperature overnight. The mixture was poured into water and extracted into ethyl acetate. The organic layer was washed with water, dilute hydrochloric acid, water, a dilute sodium bicarbonate solution, water (twice), and a saturated sodium chloride solution. The organic solution was dried over sodium sulfate and concentrated in vacuo to provide 30.5 g of a solid. Crystallization from methanol/water provided 14.6 g of the desired title product, m.p. 165°-166° C.

reactant | 6-chloronicotinic acid | 25 g | ClC1=NC=C(C(=O)O)C=C1 | C6H4ClNO2
reactant | triethylamine | 22.6 ml | C(C)N(CC)CC | C6H15N
reactant | ethyl chloroformate | 15.5 ml | ClC(=O)OCC | C3H5ClO2
reactant | 2,6-dimethylaniline | 38.5 g | CC1=C(N)C(=CC=C1)C | C8H11N
solvent | acetone | approximately 300 ml | CC(=O)C | C3H6O
solvent | acetone | approximately 150 ml | CC(=O)C | C3H6O
solvent | water | O | H2O
product | 6-Chloro-N-(2,6-dimethylphenyl)-3-pyridinecarboxamide | 30.5 g | ClC1=CC=C(C=N1)C(=O)NC1=C(C=CC=C1C)C | C14H13ClN2O
